US05313000
The Preparation of poly(Epichlorohydrin-THF) Random Copolymer (Variation)
This procedure followed that outlined in Example 26 except that the monomer feed consisted of a 50:50 mixture of neat epichlorohydrin and THF (tetrahydrofuran). The solution was added over 40 hours at 0° C. to yield the copolymer in 87% yield. This was contaminated with 17% oligomer.

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | THF | O1CCCC1 | C4H8O
product | Epichlorohydrin THF | 87% yield | C(Cl)C1CO1.C1CCOC1 | InChI=1S/C4H8O.C3H5ClO/c1-2-4-5-3-1;4-1-3-2-5-3/h1-4H2;3H,1-2H2
